### PR TITLE
[Merged by Bors] - feat(SimpleGraph): `deleteEdges` distributes over `sup`

### PR DESCRIPTION
**Pull request by YaelDillies**
... and other lemmas

From ProofBench

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Combinatorics/SimpleGraph/DeleteEdges.lean [hunk 1]
```diff
@@ -79,15 +79,22 @@ theorem deleteEdges_sdiff_eq_of_le {H : SimpleGraph V} (h : H ≤ G) :
...
 
-theorem edgeFinset_deleteEdges [DecidableEq V] [Fintype G.edgeSet] (s : Finset (Sym2 V))
+@[simp] theorem edgeFinset_deleteEdges [DecidableEq V] [Fintype G.edgeSet] (s : Finset (Sym2 V))
     [Fintype (G.deleteEdges s).edgeSet] :
     (G.deleteEdges s).edgeFinset = G.edgeFinset \ s := by
   ext e
   simp [edgeSet_deleteEdges]
 
+@[simp] lemma deleteEdges_sup (G H : SimpleGraph V) (s : Set (Sym2 V)) :
+    (G ⊔ H).deleteEdges s = G.deleteEdges s ⊔ H.deleteEdges s := by ext; simp [or_and_right]
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/DeleteEdges.lean]:
```suggestion
    (G ⊔ H).deleteEdges s = G.deleteEdges s ⊔ H.deleteEdges s := sup_sdiff
```

File: Mathlib/Combinatorics/SimpleGraph/DeleteEdges.lean [hunk 2]
```diff
@@ -79,15 +79,22 @@ theorem deleteEdges_sdiff_eq_of_le {H : SimpleGraph V} (h : H ≤ G) :
...
+
+@[simp] lemma deleteEdges_fromEdgeSet (s t : Set (Sym2 V)) :
+    (fromEdgeSet s).deleteEdges t = fromEdgeSet (s \ t) := by ext; simp +contextual
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/DeleteEdges.lean:96]:
```suggestion
    (fromEdgeSet s).deleteEdges t = fromEdgeSet (s \ t) := fromEdgeSet_sdiff .. |>.symm
```

Comment (SnirBroshi) [reply Mathlib/Combinatorics/SimpleGraph/DeleteEdges.lean:96]: Also how does it not create a cycle in `simp` lemmas if `fromEdgeSet_sdiff` is also tagged `simp`? Is it because it doesn't unfold `deleteEdges`?

Comment (YaelDillies) [reply Mathlib/Combinatorics/SimpleGraph/DeleteEdges.lean:96]: @b-mehta, this is worrying. What direction do you think is best?

Comment (jcommelin) [reply Mathlib/Combinatorics/SimpleGraph/DeleteEdges.lean:96]: Why is the linter not complaining, if this creates a loop?

Comment (b-mehta) [reply Mathlib/Combinatorics/SimpleGraph/DeleteEdges.lean:96]: I don't think it does create a loop, precisely because it doesn't unfold `deleteEdges`. 
And so I don't think there's anything to worry about here, we can have both these as simp lemmas. It is a little weird that the rhs of this one gets further simplified directly (so maybe the rhs here should be fromEdgeSet s \ fromEdgeSet t), but I don't see why we can't have both lemmas as simp.

Comment (SnirBroshi) [reply Mathlib/Combinatorics/SimpleGraph/DeleteEdges.lean:96]: > I don't see why we can't have both lemmas as simp

Won't that make it impossible to `simp [deleteEdges]`? It'll require an `unfold` to let `simp` see through a `deleteEdges`
